** Test bench for VCO

.include vco_sch.ckt
.include inductor_model_cct.ckt

xvco vp vn vctrl ibias VDD GND vco_sch
xind1 vp vn ind_model

Isource VDD ibias 90u
VDD VDD GND 1.8
VTuner vctrl GND 0.5

.lib /foundry/pdks/skywaters/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.temp 27
.options tnom=27

.control
    op
    tran 0.01ns 200ns
    *plot vp
    let vdiff = v(vp)-v(vn)
    let vdiff_max =  vecmax(vp-vn)
    print vdiff_max
    meas tran tperiod TRIG vdiff VAL=0.4 RISE=30 TARG vdiff VAL=0.4 RISE=31
    let freq = 1/(tperiod*1000000000)
    print freq
    

.endc
.GLOBAL GND
.GLOBAL VDD
.end
